US04598092
To a solution of α-hydroxy-β-chloroethylphosphinic acid (1.45 g) in methanol (10 ml), a solution of morpholine (0.87 g) in methanol (10 ml) was added, and the resultant mixture was stirred for 2 hours. After removal of methanol by distillation, there was obtained 2.30 g (98%) of morpholinium α-hydroxy-β-chloroethylphosphinate (Compound No. 12) as a creamy solid.

reactant | α-hydroxy-β-chloroethylphosphinic acid | 1.45 g | OC(CCl)P(O)=O | C2H6ClO3P
reactant | morpholine | 0.87 g | N1CCOCC1 | C4H9NO
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 10 ml | CO | CH4O
product | morpholinium α-hydroxy-β-chloroethylphosphinate | 2.30 g, 98% | OC(CCl)P([O-])=O.[NH2+]1CCOCC1 | InChI=1S/C4H9NO.C2H6ClO3P/c1-3-6-4-2-5-1;3-1-2(4)7(5)6/h5H,1-4H2;2,4,7H,1H2,(H,5,6)
